US05395846
To KH (35%; (0.34 g;0.0029 mole) in THF (8 ml) under N2 and cooled in an ice bath is added N-trityl-5-hydroxytricyclo-[3.3.1.13,7 ]decan-2-amine (1.0 g; 0.0025 mole) This forms a pale yellow solution and is stirred at room temperature for 1 hour. The reaction mixture is then cooled in ice and 4-(benzoxazol2-yl)benzyl bromide (0.7 g; 0.0025 mole) is added all at once. The mixture is stirred for 1/2 hour with ice cooling and then 31/2 hours at room temperature then cooled in ice and MeOH is added to quench the KH. The mixture is evaporated to dryness. Purification is accomplished on HPLC, eluting with a gradient system staring with 10% and ending with 20% ethyl acetate/hexane to obtain N-trityl-5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-amine which is used directly in step F.

reactant | N-trityl-5-hydroxytricyclo-[3.3.1.13,7 ]decan-2-amine | 0.0025 mole, 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2CC3CC(CC1C3)(C2)O | C29H31NO
reactant | 4-(benzoxazol2-yl)benzyl bromide | 0.0025 mole, 0.7 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(CBr)C=C2 | C14H10BrNO
reactant | MeOH | CO | CH4O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | N-trityl-5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-amine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2CC3CC(CC1C3)(C2)OCC2=CC=C(C=C2)C=2OC3=C(N2)C=CC=C3 | C43H40N2O2
